US05112966
(3S,4S)-4-(1-Carboxyethenyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-2-azetidinone (37 g), which was prepared from (3S,4S)-4-(1-formylethenyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-2-azetidinone in the similar procedure to Example 6, was dissolved in methanol and then diluted with diethyl ether. A solution of diazomethane in diethyl ether was added dropwise thereto with ice-cooling, and the resultant mixture was stirred for 0.5 hour. After removal of excess diazomethane, the reaction mixture was concentrated in vacuo to give (3S,4S)-4-(1-methoxycarbonylethenl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-2-azetidinone.

reactant | (3S,4S)-4-(1-formylethenyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-2-azetidinone | C(=O)C(=C)[C@@H]1[C@H](C(N1)=O)[C@@H](C)OC(=O)OCC1=CC=CC=C1 | C16H17NO5
reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | methanol | CO | CH4O
solvent | diethyl ether | C(C)OCC | C4H10O
product | (3S,4S)-4-(1-Carboxyethenyl)-3-(1-(R)-benzyloxycarbonyloxyethyl)-2-azetidinone | 37 g | C(=O)(O)C(=C)[C@@H]1[C@H](C(N1)=O)[C@@H](C)OC(=O)OCC1=CC=CC=C1 | C16H17NO6
